US09126969B2
A solution of 132 mg of N1-{2-[4-amino-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-6-fluoro-3H-benzimidazol-5-yl}-N2,N2-dimethylethane-1,2-diamine in 8 mL of tetrahydrofuran with 428 μL of diethylcarbamoyl chloride and 560 μL of N,N-diisopropylethylamine is heated at 55° C. for 48 hours. 15 mL of water are added and then the aqueous phase is extracted with 3×15 mL of ethyl acetate. The organic phases are washed with 2×15 mL of distilled water, dried over magnesium sulfate, filtered and concentrated under vacuum in a rotary evaporator. The reaction crude is purified by flash chromatography on an Intelliflash apparatus on an Analogix RS-12 cartridge, with a 95/5 dichloromethane/-methanol eluent. 18 mg of 3-[3-[6-(2-dimethylaminoethylamino)-5-fluoro-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-diethylurea are isolated in the form of a yellow resin. 1H NMR (400 MHz, DMSO-d6, δ in ppm), after addition of a drop of TFA-d1 (trifluoroacetic acid CF3COOD-d1) and of a drop of acetic acid-d4-(CD3OD-d4): 1.16 (t, J=7.5 Hz, 6H); 1.56 (m, 2H); 1.70 (m, 1H); 1.97 (m, 2H); 2.14 (m, 1H); 2.86 (s, 6H); 3.37 (m, 6H); 3.50 (t, J=6.5 Hz, 2H); 3.68 (m, 1H); 3.96 (m, 1H); 5.48 (broad d, J=10.0 Hz, 1H); 6.88 (d, J=7.5 Hz, 1H); 7.42 (d, J=11.0 Hz, 1H); 8.11 (s, 1H).

reactant | N1-{2-[4-amino-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-6-fluoro-3H-benzimidazol-5-yl}-N2,N2-dimethylethane-1,2-diamine | 132 mg | NC=1C(=NN(C1)C1OCCCC1)C=1NC2=C(N1)C=C(C(=C2)NCCN(C)C)F | C19H26FN7O
reactant | diethylcarbamoyl chloride | 428 μL | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | N,N-diisopropylethylamine | 560 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | 15 mL | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-[3-[6-(2-dimethylaminoethylamino)-5-fluoro-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-diethylurea | 18 mg | CN(CCNC=1C(=CC2=C(NC(=N2)C2=NN(C=C2NC(N(CC)CC)=O)C2OCCCC2)C1)F)C | C24H35FN8O2
